US07691882B2
(4-Chloro-pyridin-2-yl)-methanol
To a mixture of 4-chloro-2-picoline (1.0 g, 7.84 mmol) and dichloromethane (20 mL), was added m-chloroperbenzoic acid (3.5 g, 13.2 mmol) on an ice bath, which was stirred for 1.5 hours at room temperature. Water and sodium hydrogencarbonate were added to the reaction, followed by extraction with dichloromethane. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. Acetic anhydride (20 mL) was added to the residue obtained by concentrating the filtrate under a reduced pressure, and this was stirred for 1 hour at 100° C. The reaction mixture was cooled to room temperature and concentrated under a reduced pressure. A 5 N aqueous sodium hydroxide solution (1.57 mL, 7.87 mmol) was added to a mixture of the resulting residue and methanol (20 mL) on an ice bath, which was stirred for 1.5 hours at room temperature. Water was added to the mixture, which was then extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=6:1) to obtain the title compound (200 mg, 18%).

reactant | 4-chloro-2-picoline | 7.84 mmol, 1.0 g | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | m-chloroperbenzoic acid | 13.2 mmol, 3.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 7.87 mmol, 5 N, 1.57 mL | [OH-].[Na+]
solvent | Water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (4-Chloro-pyridin-2-yl)-methanol | 200 mg, 18% | ClC1=CC(=NC=C1)CO | C6H6ClNO
